US07598389B2
10.9 g (50 mmol) of trimethyl-(2-nitrophenylethynyl)silane were dissolved in 200 ml of methanol, and 0.5 g of palladium-on-carbon (5%) were added. The mixture was then hydrogenated in an autoclave at 4 bar for 12 h. Removal of the solvent and column-chromatographic purification on silica gel 60 (mobile phase: methylene chloride) gave 4.1 g of 2-(2-trimethylsilylethyl)phenylamine [log P (pH 2.3)=2.58].

reactant | trimethyl-(2-nitrophenylethynyl)silane | 50 mmol, 10.9 g | C[Si](C#CC1=C(C=CC=C1)[N+](=O)[O-])(C)C | C11H13NO2Si
solvent | methanol | 200 ml | CO | CH4O
catalyst | palladium-on-carbon | 0.5 g | [Pd] | Pd
product | 2-(2-trimethylsilylethyl)phenylamine | 4.1 g, pH 2.3 | C[Si](CCC1=C(C=CC=C1)N)(C)C | C11H19NSi
